US05214197
To a solution of tert.-butyl 4-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate (16.30 g, 60.08 mmol) in a mixed solvent of toluene (120.0 ml) and ethanol (60.0 ml), sodium methoxide (4.91 g, 79.10 mmol) was dropwise added at 0° C. in an argon atmosphere and stirred for 30 minutes. After dropwise adding 1N hydrochloric acid (80.5 ml), the mixture was stirred at 0° C. for 10 minutes. After evaporating off the most of the organic solvent under reduced pressure, the mixture was extracted with ethyl acetate and washed with a saturated saline and a phosphate buffer (pH 7.0). The organic layers were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=2:1) to give pure 1-ethyl 6-tert.-butyl 2-hydroxy-4-oxoadipate (14.02 g, 53.85 mmol). Yield, 89.6%.

reactant | tert.-butyl 4-(2,2-dimethyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate | 60.08 mmol, 16.30 g | CC1(OC(C(O1)CC(CC(=O)OC(C)(C)C)=O)=O)C | C13H20O6
reactant | toluene | 120.0 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium methoxide | 79.10 mmol, 4.91 g | C[O-].[Na+]
reactant | hydrochloric acid | 1N, 80.5 ml | Cl | ClH
solvent | ethanol | 60.0 ml | C(C)O | C2H6O
product | 1-ethyl 6-tert.-butyl 2-hydroxy-4-oxoadipate | 53.85 mmol, 14.02 g | OC(C(=O)OCC)CC(CC(=O)OC(C)(C)C)=O | C12H20O6
